US07902252B2
2.114. Synthesis of 4-(4-benzylphenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (107)
The title compound was synthesized from methyl 4-(4-benzylphenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (150 mg, 0.45 mmol) and lithium hydroxide monohydrate (108 mg, 4.5 mmol), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (10 mL) was used. The resulting product was purified by chromatography over silica gel (gradient 0 to 100% EtOAc in heptane over 20 min) to give a pure product (50 mg). 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.14-2.25 (m, 1H), 2.66-2.94 (m, 3H), 3.91 (s, 2H), 4.14 (t, J=7.30 Hz, 1H), 6.51 (s, 1H), 7.09 (s, 5H), 7.12-7.19 (m, 3H), 7.21-7.28 (m, 2H). LCMS m/e 316 (M−H) and 100% pure by HPLC.

reactant | methyl 4-(4-benzylphenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.45 mmol, 150 mg | C(C1=CC=CC=C1)C1=CC=C(C=C1)C1CCC=2NC(=CC21)C(=O)OC | C22H21NO2
reactant | lithium hydroxide monohydrate | 4.5 mmol, 108 mg | O.[OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(4-benzylphenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | C(C1=CC=CC=C1)C1=CC=C(C=C1)C1CCC=2NC(=CC21)C(=O)O | C21H19NO2
